US07858640B2
Trifluoromethanesulfonic Acid 3-(4-chlorobenzyl)-4,7-dimethyl-2-oxo-1,2-dihydroquinolin-5-yl Ester
A mixture of 3-(4-chlorobenzyl)-5-hydroxy-4,7-dimethyl-1H-quinolin-2-one (1.4 g), N-phenyltrifluoromethanesulfonimide (1.75 g), potassium carbonate (1.85 g) and tetrahydrofuran (7.0 mL) was heated by microwave irradiation at 120° C. for 12 minutes. The mixture was filtered and the filtrate concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel, eluting with a mixture of ethyl acetate and dichloromethane (1:25 to 1:5 by volume) gave title compound as an off-white solid, 3.3 g.

reactant | 3-(4-chlorobenzyl)-5-hydroxy-4,7-dimethyl-1H-quinolin-2-one | 1.4 g | ClC1=CC=C(CC=2C(NC3=CC(=CC(=C3C2C)O)C)=O)C=C1 | C18H16ClNO2
reactant | N-phenyltrifluoromethanesulfonimide | 1.75 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 1.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
product | Trifluoromethanesulfonic Acid 3-(4-chlorobenzyl)-4,7-dimethyl-2-oxo-1,2-dihydroquinolin-5-yl Ester | ClC1=CC=C(CC=2C(NC3=CC(=CC(=C3C2C)OS(=O)(=O)C(F)(F)F)C)=O)C=C1 | C19H15ClF3NO4S
